US05073559
Example 6 2-(2-Propoxyphenyl)-8-phenylpurin-6-one
A mixture of 4,5-diamino-2-(2-propoxyphenyl)-pyrimidine-6-one (1.3 g), benzamidine hydrochloride (2 g) and anhydrous sodium acetate (0.9 g) was heated in an oil bath (temperature 160°-170° C.) for 2 hours. The reaction mixture was digested with hot ethanol to give a solid, 0.76 g, m.p. 267°-271° C. This was combined with a further sample, 0.2 g, (similarly prepared) and recrystallised from aqueous acetic acid to give the title compound, 0.74 g, m.p. 259°-260° C.

reactant | 4,5-diamino-2-(2-propoxyphenyl)-pyrimidine-6-one | 1.3 g | NC=1N=C(NC(C1N)=O)C1=C(C=CC=C1)OCCC | C13H16N4O2
reactant | benzamidine hydrochloride | 2 g | Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium acetate | 0.9 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-Propoxyphenyl)-8-phenylpurin-6-one | C(CC)OC1=C(C=CC=C1)C1=NC(C2=NC(=NC2=N1)C1=CC=CC=C1)=O | C20H16N4O2
